US07223788B2
5′-Chloro-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-carboxylic acid [4-(3-dimethylamino-pyrrolidin-1-yl)phenyl]amid
Piperidine-4-carboxylic acid [4-(3-dimethylaminopyrrolidin-1-yl)phenyl]amide (30 mg), 2,5-dichloropyridine (30 mg) and tributylamine (0.2 ml) were heated at 160° C. for 2 hours. The cooled crude mixture was washed with heptane and purified by chromatography (silica gel, eluent: ethyl acetate/ammonia (3N in methanol)). This resulted in the product with the molecular weight of 427.98 (C23H30ClN5O); MS (ESI): 428 (M+H+).

reactant | Piperidine-4-carboxylic acid [4-(3-dimethylaminopyrrolidin-1-yl)phenyl]amide | 30 mg | CN(C1CN(CC1)C1=CC=C(C=C1)NC(=O)C1CCNCC1)C | C18H28N4O
reactant | 2,5-dichloropyridine | 30 mg | ClC1=NC=C(C=C1)Cl | C5H3Cl2N
reactant | tributylamine | 0.2 ml | C(CCC)N(CCCC)CCCC | C12H27N
product | 5′-Chloro-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-carboxylic acid [4-(3-dimethylamino-pyrrolidin-1-yl)phenyl]amid | CN(C1CN(CC1)C1=CC=C(C=C1)NC(=O)C1CCN(CC1)C1=NC=C(C=C1)Cl)C | C23H30ClN5O
